US09102591B2
N-[2-(6-Cyclopropyl-3-pyridyl)-3-[1-(trifluoromethyl)cyclopropyl]propyl]-2-fluoro-benzamide
From 2-fluorobenzoic acid and 2-(6-cyclopropyl-pyridin-3-yl)-3-(1-trifluoromethyl-cyclopropyl)-propylamine. LCMS (MH+): m/z=407.1, tR (minutes, Method G)=2.01

reactant | 2-fluorobenzoic acid | FC1=C(C(=O)O)C=CC=C1 | C7H5FO2
reactant | 2-(6-cyclopropyl-pyridin-3-yl)-3-(1-trifluoromethyl-cyclopropyl)-propylamine | C1(CC1)C1=CC=C(C=N1)C(CN)CC1(CC1)C(F)(F)F | C15H19F3N2
product | N-[2-(6-Cyclopropyl-3-pyridyl)-3-[1-(trifluoromethyl)cyclopropyl]propyl]-2-fluoro-benzamide | C1(CC1)C1=CC=C(C=N1)C(CNC(C1=C(C=CC=C1)F)=O)CC1(CC1)C(F)(F)F | C22H22F4N2O
